US04276304
11.5 g of sodium are added to 300 ml of anhydrous methanol, and 67 g of 4-methoxybenzaldehyde and 105 g of 2-nitropropane are added thereto at 13° C. for 25 minutes under stirring. The mixture is stirred at 23° C. for 70 hours. 32 g of acetic acid are added to the mixture under ice-cooling, and said mixture is evaporated under reduced pressure to remove solvent. About 200 ml of water are added to the residue, and the aqueous mixture is extracted with benzene. The extract is washed with a saturated sodium chloride solution, a saturated sodium bisulfite solution, water and a saturated sodium chloride solution, successively. The washed extract is dried and then evaporated to remove solvent. The residue (yellow oil, 65 g) is distilled at 75° C. under reduced pressure (1-2 mm Hg) to recover 47 g of the starting compound (i.e., 4-methoxybenzaldehyde). On the other hand, 14.5 g of 1-(4 -methoxyphenyl)-2-methyl-2-nitropropanol (crude product) are obtained as the residue.

reactant | sodium | 11.5 g | [Na] | Na
reactant | methanol | 300 ml | CO | CH4O
reactant | 4-methoxybenzaldehyde | 67 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 2-nitropropane | 105 g | [N+](=O)([O-])C(C)C | C3H7NO2
solvent | acetic acid | 32 g | C(C)(=O)O | C2H4O2
product | 1-(4 -methoxyphenyl)-2-methyl-2-nitropropanol | 14.5 g | COC1=CC=C(C=C1)C(C(C)([N+](=O)[O-])C)O | C11H15NO4
